US05578627
To a solution of 0.5 g of 3-[2-tert-butoxycarbonylamino-3-(3-benzenesulfonyloxy-5-isoxazolyl)propoxy]-5-chloro-1,2-benzoisoxazole in 4 ml of tetrahydrofuran is added 2.5 ml of a methanol solution (6N) of ammonia at room temperature, and they are subjected to reaction at the same temperature for 16 hours. Water and ethyl acetate are added to the reaction mixture, 1N hydrochloric acid is thereafter added to adjust the pH to 2, and after shaking, the organic layer is separated. The separated organic layer is washed with a saturated saline solution and dried over anhydrous magnesium sulfate, after which the solvent is removed by distillation under reduced pressure, to obtain 0.38 g of 3-[2-tert-butoxycarbonylamino-3-(3-hydroxy-5-isoxazolyl)propoxy]-5-chloro-1,2-benzoisoxazole having a melting point of 158.8°-160.7° C.

reactant | 3-[2-tert-butoxycarbonylamino-3-(3-benzenesulfonyloxy-5-isoxazolyl)propoxy]-5-chloro-1,2-benzoisoxazole | 0.5 g | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=C(C=C2)Cl)CC2=CC(=NO2)OS(=O)(=O)C2=CC=CC=C2 | C24H24ClN3O8S
reactant | methanol | 6N, 2.5 ml | CO | CH4O
reactant | ammonia | N | H3N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 3-[2-tert-butoxycarbonylamino-3-(3-hydroxy-5-isoxazolyl)propoxy]-5-chloro-1,2-benzoisoxazole | 0.38 g | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=C(C=C2)Cl)CC2=CC(=NO2)O | C18H20ClN3O6
